US06015825
(iv) 1-Benzyl-(1H)-1,2,3-triazole
A stirred mixture of 1-benzyl-(1H)-1,2,3-triazole hydrogen chloride (80 g 0.41 moles) in water (320 ml) and ethyl acetate (320 ml) was basified with 20% NaOH (91 ml). The mixture was stirred at room temperature for 10 minutes and separated. The aqueous phase was re-extracted with ethyl acetate (160 ml) and the combined organic product solutions were washed with water (160 ml). The product solution was concentrated to a volume of 195 ml and cooled to room temperature. To the stirred ethyl acetate concentrate was added hexane (585 ml) over 15 minutes. The resulting seeded slurry was granulated at 0° C. for 1 hour. The-filtered white solid (62,4 g, 0.39 moles) was characterised by 1H-NMR spectroscopy.

reactant | 1-benzyl-(1H)-1,2,3-triazole hydrogen chloride | 0.41 moles, 80 g | Cl.C(C1=CC=CC=C1)N1N=NC=C1
reactant | NaOH | 91 ml | [OH-].[Na+]
solvent | water | 320 ml | O | H2O
solvent | ethyl acetate | 320 ml | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-(1H)-1,2,3-triazole | C(C1=CC=CC=C1)N1N=NC=C1 | C9H9N3
